US04327026
2.5 g of Raney-nickel paste are added to a solution of 2.22 g (6.28 mmol) of 5-(o-fluorophenyl)-1,3-dihydro-7-[1-(hydroxyimino)ethyl]-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one in 100 ml of 2 N methanolic ammonia and the mixture is stirred at room temperature for 24 hours in a hydrogen atmosphere. The catalyst is filtered off and the solvent is concentrated in vacuo. After filtration over 50 g of silica gel using chloroform as the elution agent, the residue gives 7-(1-aminoethyl)-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one as a foam of melting point 50°-51°.

reactant | 5-(o-fluorophenyl)-1,3-dihydro-7-[1-(hydroxyimino)ethyl]-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 6.28 mmol, 2.22 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)C(C)=NO)C)=O)(C)C | C20H20FN3O2
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 2 N, 100 ml | N | H3N
catalyst | Raney-nickel | 2.5 g | [Ni] | Ni
product | 7-(1-aminoethyl)-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | NC(C)C=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1 | C20H22FN3O
